US04230719
To a solution of 8.0 g of 2-[1-(4-iodophenyl)ethyl]-4,4-dimethyl-2-oxazoline in 24 ml of anhydrous tetrahydrofuran was added 0.080 g of palladium chloride and the mixture was kept at 60° to 65° C. On the other hand, a Grignard reagent was prepared from 5.2 g of 2-bromo-3-methylthiophene, 0.8 g of magnesium turnings and 15 ml of anhydrous tetrahydrofuran. The Grignard reagent was added dropwise to the above mixture over a period of 30 minutes, while maintaining the temperature at 60° to 65° C. After the addition, the mixture was stirred at the same temperature for one hour to complete the reaction. After removal of the solvent by distillation under reduced pressure, to the residual reaction mixture were added 50 ml of benzene, 50 ml of water and 5 ml of glacial acetic acid, and the mixture was shaken thoroughly. The organic layer was separated, washed with water, dried over anhydrous magnesium sulfate, and freed from the solvent by distillation under reduced pressure to obtain 6.8 g (93.3% yield) of oily 2-[1-[4-(3-methyl-2-thienyl)phenyl]ethyl]-4,4-dimethyl-2-oxazoline.

reactant | 2-[1-(4-iodophenyl)ethyl]-4,4-dimethyl-2-oxazoline | 8.0 g | IC1=CC=C(C=C1)C(C)C=1OCC(N1)(C)C | C13H16INO
reactant | 2-bromo-3-methylthiophene | 5.2 g | BrC=1SC=CC1C | C5H5BrS
reactant | magnesium | 0.8 g | [Mg] | Mg
reactant | benzene | 50 ml | C1=CC=CC=C1 | C6H6
solvent | tetrahydrofuran | 24 ml | O1CCCC1 | C4H8O
catalyst | palladium chloride | 0.080 g | [Pd](Cl)Cl
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
solvent | water | 50 ml | O | H2O
product | 2-[1-[4-(3-methyl-2-thienyl)phenyl]ethyl]-4,4-dimethyl-2-oxazoline | 6.8 g, 93.3% yield | CC1=C(SC=C1)C1=CC=C(C=C1)C(C)C=1OCC(N1)(C)C | C18H21NOS
